US05569655
To a solution of 10.2 ml (0.102 mol) of 10M n-butyllithium in hexane in 200 ml of ether cooled to -78° C. was added dropwise 15 g (0.102 mol) of 3-bromofuran and the mixture was stirred for 15 min. To the above cooled mixture was added 12.61 g (0.092 mol) of 4,5,6,7-tetrahydrobenzofuran-7-one in 50 ml of THF and the mixture was allowed to warm to room temperature, and then stirred for 15 min. To the mixture was added saturated ammonium chloride solution and the resulting mixture was extracted with ethyl acetate (3×100 ml), and the organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo to afford 16.3 g (86%) of 4,5,6,7-tetrahydro-7-(3-furyl)-benzofuran-7-ol, a red oil.

reactant | n-butyllithium | 0.102 mol, 10M, 10.2 ml | C(CCC)[Li]
reactant | 3-bromofuran | 0.102 mol, 15 g | BrC1=COC=C1 | C4H3BrO
reactant | 4,5,6,7-tetrahydrobenzofuran-7-one | 0.092 mol, 12.61 g | O1C=CC2=C1C(CCC2)=O | C8H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4,5,6,7-tetrahydro-7-(3-furyl)-benzofuran-7-ol | 16.3 g, 86% | O1C=C(C=C1)C1(CCCC=2C=COC21)O | C12H12O3
